* Z:\mnt\design.r\spice\examples\3797.asc
XU1 NC_01 NC_02 NC_03 N013 N013 N013 N013 N021 N021 N021 N012 0 MP_04 N015 N014 OUT1 N016 MP_05 N026 N005 0 N011 N010 N019 N020 0 N006 N027 MP_06 N024 OUT2 N022 N023 MP_07 N033 N035 OUT3 N029 MP_08 N028 N007 0 N031 N030 N004 MP_09 N001 N003 N002 IN N009 0 0 LT3797
V1 IN 0 25
L1 N001 N002 47µ
C1 N002 N003 .1µ
C2 0 N004 10µ
C3 0 N005 .05µ
C4 0 N006 .05µ
C5 0 N007 .05µ
R1 IN N009 47.5K
R2 N009 0 49.9K
R3 N012 0 48.7K
R4 IN N021 487K
R5 N021 0 75K
C6 N026 0 .01µ
L2 IN N008 10µ
M1 N008 N010 N011 N011 Si4470DY
R6 N011 0 8m
D1 N008 OUT1 MBRS360
R7 OUT1 N014 .25
M2 N017 N015 N014 N014 Si7465DP
R8 OUT1 N016 20.5K
R9 N016 0 1Meg
C9 OUT1 0 4.7µ x2
D2 N017 0 LXK2-PW14
L3 IN N018 10µ
M3 N018 N019 N020 N020 Si4470DY
R10 N020 0 8m
D3 N018 OUT2 MBRS360
R11 OUT2 N022 .25
M4 N025 N023 N022 N022 Si7465DP
R12 OUT2 N024 20.5K
R13 N024 0 1Meg
C10 OUT2 0 4.7µ x2
D4 N025 0 LXK2-PW14
L4 IN N032 10µ
M5 N032 N030 N031 N031 Si4470DY
R14 N031 0 8m
D5 N032 OUT3 MBRS360
R15 OUT3 N035 .25
M6 N034 N033 N035 N035 Si7465DP
R16 OUT3 N029 20.5K
R17 N029 0 1Meg
C11 OUT3 0 4.7µ x2
D6 N034 0 LXK2-PW14
C7 N027 0 .01µ
C8 N028 0 .01µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LT3797.sub
.backanno
.end
